US07399867B2
Dissolve 4-bromo-benzenethiol (1.0 g, 5.3 mmol) in dry dimethylformamide (50 mL) and cool to 0° C. under nitrogen. Add dry sodium hydride (152 mg, 6.4 mmol), portionwise. After the vigorous gas evolution stops, add toluene-4-sulfonic acid 2,2,2-trifluoro-ethyl ester (2.0 g, 8.0 mmol) and stir the reaction overnight at room temperature. Slowly pour the reaction into water (400 mL) and extract with ethyl acetate (2×50 mL). Wash the combined organic layers with water (100 mL) and brine (100 mL). Dry the organic layer with sodium sulfate, filter and concentrate in vacuo. Chromatograph the resultant residue on a SiO2 column with hexanes to yield 640 mg of 1-bromo-4-(2,2,2-trifluoro-ethylsulfanyl)-benzene (45%).

reactant | 4-bromo-benzenethiol | 5.3 mmol, 1.0 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | sodium hydride | 6.4 mmol, 152 mg | [H-].[Na+]
reactant | toluene-4-sulfonic acid 2,2,2-trifluoro-ethyl ester | 8.0 mmol, 2.0 g | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C9H9F3O3S
reactant | water | 400 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-bromo-4-(2,2,2-trifluoro-ethylsulfanyl)-benzene | 640 mg, 45% | BrC1=CC=C(C=C1)SCC(F)(F)F | C8H6BrF3S
